* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 75.0
Gd1_1 0 s1 p1 0 -0.005673258758419595
Fd1_1 0 s1 V1 -0.4254944068814697
Gr1_1_1 0 s1 x1_a1 0 -730676796.1079977
Gr2_re_1_1 0 s1 x2_re_a1 0 428540664.3440059
Gr2_im_1_1 0 s1 x2_im_a1 0 -95227775.67253685
Gr3_re_1_1 0 s1 x3_re_a1 0 14626943.610828517
Gr3_im_1_1 0 s1 x3_im_a1 0 -40465006.06867974
Gr4_re_1_1 0 s1 x4_re_a1 0 206262330.00606638
Gr4_im_1_1 0 s1 x4_im_a1 0 -76850643.45961237
Gr5_re_1_1 0 s1 x5_re_a1 0 83008080.71335001
Gr5_im_1_1 0 s1 x5_im_a1 0 -127310332.14040267
Gr6_re_1_1 0 s1 x6_re_a1 0 -192813700.39597198
Gr6_im_1_1 0 s1 x6_im_a1 0 86716354.92281157
Gr7_re_1_1 0 s1 x7_re_a1 0 358813615.48071826
Gr7_im_1_1 0 s1 x7_im_a1 0 50723864.636402965
Gr8_re_1_1 0 s1 x8_re_a1 0 -14596136.492639957
Gr8_im_1_1 0 s1 x8_im_a1 0 143368961.52547005
Gd1_2 0 s1 p2 0 0.003602589075221674
Fd1_2 0 s1 V2 0.27019418064162565
Gr1_1_2 0 s1 x1_a2 0 -1050123242.757817
Gr2_re_1_2 0 s1 x2_re_a2 0 63011535.2117192
Gr2_im_1_2 0 s1 x2_im_a2 0 -220327942.27894744
Gr3_re_1_2 0 s1 x3_re_a2 0 -6030763.925183406
Gr3_im_1_2 0 s1 x3_im_a2 0 -50348829.070669495
Gr4_re_1_2 0 s1 x4_re_a2 0 48657723.20172617
Gr4_im_1_2 0 s1 x4_im_a2 0 -112371033.26216237
Gr5_re_1_2 0 s1 x5_re_a2 0 216592851.40427685
Gr5_im_1_2 0 s1 x5_im_a2 0 -171619310.94096535
Gr6_re_1_2 0 s1 x6_re_a2 0 -440493578.23868954
Gr6_im_1_2 0 s1 x6_im_a2 0 -622886516.8884546
Gr7_re_1_2 0 s1 x7_re_a2 0 -14910631.248342521
Gr7_im_1_2 0 s1 x7_im_a2 0 245150983.6747653
Gr8_re_1_2 0 s1 x8_re_a2 0 -326371220.9036712
Gr8_im_1_2 0 s1 x8_im_a2 0 91353524.55220023
Gd1_3 0 s1 p3 0 -0.002806230414739963
Fd1_3 0 s1 V3 -0.2104672811054973
Gr1_1_3 0 s1 x1_a3 0 248508019.06990352
Gr2_re_1_3 0 s1 x2_re_a3 0 -19980115.849350948
Gr2_im_1_3 0 s1 x2_im_a3 0 256533274.12930334
Gr3_re_1_3 0 s1 x3_re_a3 0 31413688.32403732
Gr3_im_1_3 0 s1 x3_im_a3 0 66477181.333545
Gr4_re_1_3 0 s1 x4_re_a3 0 69590763.94419335
Gr4_im_1_3 0 s1 x4_im_a3 0 158543631.89625895
Gr5_re_1_3 0 s1 x5_re_a3 0 147053863.8610017
Gr5_im_1_3 0 s1 x5_im_a3 0 239082720.5104972
Gr6_re_1_3 0 s1 x6_re_a3 0 359365427.85825753
Gr6_im_1_3 0 s1 x6_im_a3 0 -143584764.34863314
Gr7_re_1_3 0 s1 x7_re_a3 0 -17383823.014835414
Gr7_im_1_3 0 s1 x7_im_a3 0 -75321185.12280391
Gr8_re_1_3 0 s1 x8_re_a3 0 31128120.258093506
Gr8_im_1_3 0 s1 x8_im_a3 0 -73988698.11452702
Gd1_4 0 s1 p4 0 0.0027875751141179473
Fd1_4 0 s1 V4 0.2090681335588461
Gr1_1_4 0 s1 x1_a4 0 -3786084853.352499
Gr2_re_1_4 0 s1 x2_re_a4 0 492492439.2696869
Gr2_im_1_4 0 s1 x2_im_a4 0 -225083053.39156258
Gr3_re_1_4 0 s1 x3_re_a4 0 37083771.832598805
Gr3_im_1_4 0 s1 x3_im_a4 0 -232524879.64970988
Gr4_re_1_4 0 s1 x4_re_a4 0 21252436.619157184
Gr4_im_1_4 0 s1 x4_im_a4 0 -250673340.38797843
Gr5_re_1_4 0 s1 x5_re_a4 0 106540689.96983056
Gr5_im_1_4 0 s1 x5_im_a4 0 -157907003.36420742
Gr6_re_1_4 0 s1 x6_re_a4 0 -61861654.9104877
Gr6_im_1_4 0 s1 x6_im_a4 0 -348128288.03721446
Gr7_re_1_4 0 s1 x7_re_a4 0 -73172443.4845289
Gr7_im_1_4 0 s1 x7_im_a4 0 -54832475.42033527
Gr8_re_1_4 0 s1 x8_re_a4 0 -39430465.67902082
Gr8_im_1_4 0 s1 x8_im_a4 0 -73069647.18701546
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.05773502691896257
Fx1_a1 0 x1_a1 V1 4.330127018922194
Rp1_a1 0 x1_a1 8.37384195165241e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.11547005383792514
Fx2_re_a1 0 x2_re_a1 V1 8.660254037844387
Rp2_re_re_a1 0 x2_re_a1 3.59352491824938e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 20279306959.847218
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -20279306959.847218
Rp2_im_im_a1 0 x2_im_a1 3.59352491824938e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.11547005383792514
Fx3_re_a1 0 x3_re_a1 V1 8.660254037844387
Rp3_re_re_a1 0 x3_re_a1 1.1077796172752262e-09
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 17095780561.336437
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -17095780561.336437
Rp3_im_im_a1 0 x3_im_a1 1.1077796172752262e-09
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.11547005383792514
Fx4_re_a1 0 x4_re_a1 V1 8.660254037844387
Rp4_re_re_a1 0 x4_re_a1 7.5818957062925e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 13991562109.92027
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -13991562109.92027
Rp4_im_im_a1 0 x4_im_a1 7.5818957062925e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.11547005383792514
Fx5_re_a1 0 x5_re_a1 V1 8.660254037844387
Rp5_re_re_a1 0 x5_re_a1 8.808449939167192e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 10656348811.100796
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -10656348811.100796
Rp5_im_im_a1 0 x5_im_a1 8.808449939167192e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.11547005383792514
Fx6_re_a1 0 x6_re_a1 V1 8.660254037844387
Rp6_re_re_a1 0 x6_re_a1 6.16639163135776e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 8655331631.79729
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -8655331631.79729
Rp6_im_im_a1 0 x6_im_a1 6.16639163135776e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.11547005383792514
Fx7_re_a1 0 x7_re_a1 V1 8.660254037844387
Rp7_re_re_a1 0 x7_re_a1 1.0025909908110874e-09
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 5102086925.948308
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -5102086925.948308
Rp7_im_im_a1 0 x7_im_a1 1.0025909908110874e-09
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.11547005383792514
Fx8_re_a1 0 x8_re_a1 V1 8.660254037844387
Rp8_re_re_a1 0 x8_re_a1 1.342268950071152e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 6605241702.929479
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -6605241702.929479
Rp8_im_im_a1 0 x8_im_a1 1.342268950071152e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 75.0
Gd2_1 0 s2 p1 0 0.0036014415425806795
Fd2_1 0 s2 V1 0.27010811569355103
Gr1_2_1 0 s2 x1_a1 0 -1047846871.7718356
Gr2_re_2_1 0 s2 x2_re_a1 0 62884958.82658203
Gr2_im_2_1 0 s2 x2_im_a1 0 -220306358.52601874
Gr3_re_2_1 0 s2 x3_re_a1 0 -6052910.033139706
Gr3_im_2_1 0 s2 x3_im_a1 0 -50336558.40746728
Gr4_re_2_1 0 s2 x4_re_a1 0 48570863.621080145
Gr4_im_2_1 0 s2 x4_im_a1 0 -112385359.2845978
Gr5_re_2_1 0 s2 x5_re_a1 0 216418183.21011892
Gr5_im_2_1 0 s2 x5_im_a1 0 -171748837.39561567
Gr6_re_2_1 0 s2 x6_re_a1 0 -440856160.79269075
Gr6_im_2_1 0 s2 x6_im_a1 0 -622398905.2155175
Gr7_re_2_1 0 s2 x7_re_a1 0 -14791305.55802786
Gr7_im_2_1 0 s2 x7_im_a1 0 245168545.8377254
Gr8_re_2_1 0 s2 x8_re_a1 0 -326262723.875541
Gr8_im_2_1 0 s2 x8_im_a1 0 91518875.6411614
Gd2_2 0 s2 p2 0 0.004137494833990355
Fd2_2 0 s2 V2 0.3103121125492767
Gr1_2_2 0 s2 x1_a2 0 -9351698425.928396
Gr2_re_2_2 0 s2 x2_re_a2 0 829325332.912369
Gr2_im_2_2 0 s2 x2_im_a2 0 -836581101.6711899
Gr3_re_2_2 0 s2 x3_re_a2 0 42545061.94874489
Gr3_im_2_2 0 s2 x3_im_a2 0 64229802.78562657
Gr4_re_2_2 0 s2 x4_re_a2 0 -153537904.48019153
Gr4_im_2_2 0 s2 x4_im_a2 0 -225391244.12647828
Gr5_re_2_2 0 s2 x5_re_a2 0 580086232.9664254
Gr5_im_2_2 0 s2 x5_im_a2 0 205695302.18331727
Gr6_re_2_2 0 s2 x6_re_a2 0 626046373.6773757
Gr6_im_2_2 0 s2 x6_im_a2 0 -676867449.6738482
Gr7_re_2_2 0 s2 x7_re_a2 0 55216312.74112728
Gr7_im_2_2 0 s2 x7_im_a2 0 -592275945.0710621
Gr8_re_2_2 0 s2 x8_re_a2 0 223821566.86448663
Gr8_im_2_2 0 s2 x8_im_a2 0 -150177679.86241442
Gd2_3 0 s2 p3 0 -3.14767726697784e-06
Fd2_3 0 s2 V3 -0.00023607579502333808
Gr1_2_3 0 s2 x1_a3 0 -14620733.409801884
Gr2_re_2_3 0 s2 x2_re_a3 0 2377561.3944489993
Gr2_im_2_3 0 s2 x2_im_a3 0 -3256007.539847632
Gr3_re_2_3 0 s2 x3_re_a3 0 630324.0295352146
Gr3_im_2_3 0 s2 x3_im_a3 0 318197.16562135564
Gr4_re_2_3 0 s2 x4_re_a3 0 581151.9725273859
Gr4_im_2_3 0 s2 x4_im_a3 0 -1399430.073616165
Gr5_re_2_3 0 s2 x5_re_a3 0 -135100.1559540672
Gr5_im_2_3 0 s2 x5_im_a3 0 -6210601.006144402
Gr6_re_2_3 0 s2 x6_re_a3 0 -8672675.687536428
Gr6_im_2_3 0 s2 x6_im_a3 0 4901128.7964280015
Gr7_re_2_3 0 s2 x7_re_a3 0 8602787.263877243
Gr7_im_2_3 0 s2 x7_im_a3 0 1492227.3856918865
Gr8_re_2_3 0 s2 x8_re_a3 0 -259860.13397782692
Gr8_im_2_3 0 s2 x8_im_a3 0 3343070.11025872
Gd2_4 0 s2 p4 0 2.690583299892848e-06
Fd2_4 0 s2 V4 0.00020179374749196367
Gr1_2_4 0 s2 x1_a4 0 -23416364.83273855
Gr2_re_2_4 0 s2 x2_re_a4 0 86062.92188594727
Gr2_im_2_4 0 s2 x2_im_a4 0 1020827.3018056214
Gr3_re_2_4 0 s2 x3_re_a4 0 296625.4276794643
Gr3_im_2_4 0 s2 x3_im_a4 0 82090.0718842117
Gr4_re_2_4 0 s2 x4_re_a4 0 -161218.14840023752
Gr4_im_2_4 0 s2 x4_im_a4 0 465464.94085393014
Gr5_re_2_4 0 s2 x5_re_a4 0 -2410384.330212358
Gr5_im_2_4 0 s2 x5_im_a4 0 5488762.345485122
Gr6_re_2_4 0 s2 x6_re_a4 0 9319960.763121963
Gr6_im_2_4 0 s2 x6_im_a4 0 573254.3026947844
Gr7_re_2_4 0 s2 x7_re_a4 0 -1256797.6384431166
Gr7_im_2_4 0 s2 x7_im_a4 0 -3805542.0388781247
Gr8_re_2_4 0 s2 x8_re_a4 0 2563310.8377581304
Gr8_im_2_4 0 s2 x8_im_a4 0 -2048197.082493299
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.05773502691896257
Fx1_a2 0 x1_a2 V2 4.330127018922194
Rp1_a2 0 x1_a2 8.37384195165241e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.11547005383792514
Fx2_re_a2 0 x2_re_a2 V2 8.660254037844387
Rp2_re_re_a2 0 x2_re_a2 3.59352491824938e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 20279306959.847218
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -20279306959.847218
Rp2_im_im_a2 0 x2_im_a2 3.59352491824938e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.11547005383792514
Fx3_re_a2 0 x3_re_a2 V2 8.660254037844387
Rp3_re_re_a2 0 x3_re_a2 1.1077796172752262e-09
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 17095780561.336437
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -17095780561.336437
Rp3_im_im_a2 0 x3_im_a2 1.1077796172752262e-09
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.11547005383792514
Fx4_re_a2 0 x4_re_a2 V2 8.660254037844387
Rp4_re_re_a2 0 x4_re_a2 7.5818957062925e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 13991562109.92027
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -13991562109.92027
Rp4_im_im_a2 0 x4_im_a2 7.5818957062925e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.11547005383792514
Fx5_re_a2 0 x5_re_a2 V2 8.660254037844387
Rp5_re_re_a2 0 x5_re_a2 8.808449939167192e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 10656348811.100796
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -10656348811.100796
Rp5_im_im_a2 0 x5_im_a2 8.808449939167192e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.11547005383792514
Fx6_re_a2 0 x6_re_a2 V2 8.660254037844387
Rp6_re_re_a2 0 x6_re_a2 6.16639163135776e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 8655331631.79729
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -8655331631.79729
Rp6_im_im_a2 0 x6_im_a2 6.16639163135776e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.11547005383792514
Fx7_re_a2 0 x7_re_a2 V2 8.660254037844387
Rp7_re_re_a2 0 x7_re_a2 1.0025909908110874e-09
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 5102086925.948308
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -5102086925.948308
Rp7_im_im_a2 0 x7_im_a2 1.0025909908110874e-09
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.11547005383792514
Fx8_re_a2 0 x8_re_a2 V2 8.660254037844387
Rp8_re_re_a2 0 x8_re_a2 1.342268950071152e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 6605241702.929479
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -6605241702.929479
Rp8_im_im_a2 0 x8_im_a2 1.342268950071152e-09
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 75.0
Gd3_1 0 s3 p1 0 -0.002798393547304371
Fd3_1 0 s3 V1 -0.20987951604782787
Gr1_3_1 0 s3 x1_a1 0 245158422.68069866
Gr2_re_3_1 0 s3 x2_re_a1 0 -19757869.425869353
Gr2_im_3_1 0 s3 x2_im_a1 0 255898643.43170702
Gr3_re_3_1 0 s3 x3_re_a1 0 31397613.20428517
Gr3_im_3_1 0 s3 x3_im_a1 0 66291618.55962622
Gr4_re_3_1 0 s3 x4_re_a1 0 69466262.55642554
Gr4_im_3_1 0 s3 x4_im_a1 0 158096864.07124317
Gr5_re_3_1 0 s3 x5_re_a1 0 146956507.50140092
Gr5_im_3_1 0 s3 x5_im_a1 0 238628973.24190018
Gr6_re_3_1 0 s3 x6_re_a1 0 358737393.6463018
Gr6_im_3_1 0 s3 x6_im_a1 0 -143685080.49893233
Gr7_re_3_1 0 s3 x7_re_a1 0 -17429232.738133833
Gr7_im_3_1 0 s3 x7_im_a1 0 -75234940.94678326
Gr8_re_3_1 0 s3 x8_re_a1 0 31031678.982368164
Gr8_im_3_1 0 s3 x8_im_a1 0 -73930780.56661768
Gd3_2 0 s3 p2 0 -2.805646256379919e-06
Fd3_2 0 s3 V2 -0.00021042346922849398
Gr1_3_2 0 s3 x1_a2 0 -15012932.370096557
Gr2_re_3_2 0 s3 x2_re_a2 0 2431514.0943926643
Gr2_im_3_2 0 s3 x2_im_a2 0 -3329528.4983821623
Gr3_re_3_2 0 s3 x3_re_a2 0 607579.8229874088
Gr3_im_3_2 0 s3 x3_im_a2 0 305278.5155227991
Gr4_re_3_2 0 s3 x4_re_a2 0 579505.2869104767
Gr4_im_3_2 0 s3 x4_im_a2 0 -1410028.0883804315
Gr5_re_3_2 0 s3 x5_re_a2 0 -124215.59123468104
Gr5_im_3_2 0 s3 x5_im_a2 0 -6222549.092705805
Gr6_re_3_2 0 s3 x6_re_a2 0 -8671299.219612867
Gr6_im_3_2 0 s3 x6_im_a2 0 4878251.659082444
Gr7_re_3_2 0 s3 x7_re_a2 0 8585448.682125462
Gr7_im_3_2 0 s3 x7_im_a2 0 1487680.6034529938
Gr8_re_3_2 0 s3 x8_re_a2 0 -259751.97794540558
Gr8_im_3_2 0 s3 x8_im_a2 0 3324780.041684444
Gd3_3 0 s3 p3 0 -0.003775673075954555
Fd3_3 0 s3 V3 -0.2831754806965917
Gr1_3_3 0 s3 x1_a3 0 2682462767.0686107
Gr2_re_3_3 0 s3 x2_re_a3 0 -699429904.4960674
Gr2_im_3_3 0 s3 x2_im_a3 0 971938488.2809355
Gr3_re_3_3 0 s3 x3_re_a3 0 -5428992.366569044
Gr3_im_3_3 0 s3 x3_im_a3 0 -8323200.05532083
Gr4_re_3_3 0 s3 x4_re_a3 0 188911383.43482217
Gr4_im_3_3 0 s3 x4_im_a3 0 425320500.43969905
Gr5_re_3_3 0 s3 x5_re_a3 0 -156140021.46998274
Gr5_im_3_3 0 s3 x5_im_a3 0 203454979.67033446
Gr6_re_3_3 0 s3 x6_re_a3 0 652005145.7346739
Gr6_im_3_3 0 s3 x6_im_a3 0 815939058.7931068
Gr7_re_3_3 0 s3 x7_re_a3 0 503334372.2541563
Gr7_im_3_3 0 s3 x7_im_a3 0 -126320047.52192895
Gr8_re_3_3 0 s3 x8_re_a3 0 -3899982.3896156675
Gr8_im_3_3 0 s3 x8_im_a3 0 12241488.579697168
Gd3_4 0 s3 p4 0 -7.782850403596917e-05
Fd3_4 0 s3 V4 -0.00583713780269769
Gr1_3_4 0 s3 x1_a4 0 61511910.96648186
Gr2_re_3_4 0 s3 x2_re_a4 0 -1281265.5522968797
Gr2_im_3_4 0 s3 x2_im_a4 0 2531835.374992227
Gr3_re_3_4 0 s3 x3_re_a4 0 -677935.6316659772
Gr3_im_3_4 0 s3 x3_im_a4 0 1493159.4487563136
Gr4_re_3_4 0 s3 x4_re_a4 0 -668637.3392205709
Gr4_im_3_4 0 s3 x4_im_a4 0 4755084.302008629
Gr5_re_3_4 0 s3 x5_re_a4 0 1241547.709731579
Gr5_im_3_4 0 s3 x5_im_a4 0 167429.40187676743
Gr6_re_3_4 0 s3 x6_re_a4 0 -4098096.8514154432
Gr6_im_3_4 0 s3 x6_im_a4 0 349599.22066332423
Gr7_re_3_4 0 s3 x7_re_a4 0 -136364.58591271428
Gr7_im_3_4 0 s3 x7_im_a4 0 2954238.928500472
Gr8_re_3_4 0 s3 x8_re_a4 0 -516494.75018556195
Gr8_im_3_4 0 s3 x8_im_a4 0 1782254.6006563965
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.05773502691896257
Fx1_a3 0 x1_a3 V3 4.330127018922194
Rp1_a3 0 x1_a3 8.37384195165241e-11
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.11547005383792514
Fx2_re_a3 0 x2_re_a3 V3 8.660254037844387
Rp2_re_re_a3 0 x2_re_a3 3.59352491824938e-10
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 20279306959.847218
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -20279306959.847218
Rp2_im_im_a3 0 x2_im_a3 3.59352491824938e-10
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.11547005383792514
Fx3_re_a3 0 x3_re_a3 V3 8.660254037844387
Rp3_re_re_a3 0 x3_re_a3 1.1077796172752262e-09
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 17095780561.336437
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -17095780561.336437
Rp3_im_im_a3 0 x3_im_a3 1.1077796172752262e-09
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.11547005383792514
Fx4_re_a3 0 x4_re_a3 V3 8.660254037844387
Rp4_re_re_a3 0 x4_re_a3 7.5818957062925e-10
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 13991562109.92027
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -13991562109.92027
Rp4_im_im_a3 0 x4_im_a3 7.5818957062925e-10
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.11547005383792514
Fx5_re_a3 0 x5_re_a3 V3 8.660254037844387
Rp5_re_re_a3 0 x5_re_a3 8.808449939167192e-10
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 10656348811.100796
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -10656348811.100796
Rp5_im_im_a3 0 x5_im_a3 8.808449939167192e-10
Cx6_re_a3 x6_re_a3 0 1.0
Gx6_re_a3 0 x6_re_a3 p3 0 0.11547005383792514
Fx6_re_a3 0 x6_re_a3 V3 8.660254037844387
Rp6_re_re_a3 0 x6_re_a3 6.16639163135776e-10
Gp6_re_im_a3 0 x6_re_a3 x6_im_a3 0 8655331631.79729
Cx6_im_a3 x6_im_a3 0 1.0
Gp6_im_re_a3 0 x6_im_a3 x6_re_a3 0 -8655331631.79729
Rp6_im_im_a3 0 x6_im_a3 6.16639163135776e-10
Cx7_re_a3 x7_re_a3 0 1.0
Gx7_re_a3 0 x7_re_a3 p3 0 0.11547005383792514
Fx7_re_a3 0 x7_re_a3 V3 8.660254037844387
Rp7_re_re_a3 0 x7_re_a3 1.0025909908110874e-09
Gp7_re_im_a3 0 x7_re_a3 x7_im_a3 0 5102086925.948308
Cx7_im_a3 x7_im_a3 0 1.0
Gp7_im_re_a3 0 x7_im_a3 x7_re_a3 0 -5102086925.948308
Rp7_im_im_a3 0 x7_im_a3 1.0025909908110874e-09
Cx8_re_a3 x8_re_a3 0 1.0
Gx8_re_a3 0 x8_re_a3 p3 0 0.11547005383792514
Fx8_re_a3 0 x8_re_a3 V3 8.660254037844387
Rp8_re_re_a3 0 x8_re_a3 1.342268950071152e-09
Gp8_re_im_a3 0 x8_re_a3 x8_im_a3 0 6605241702.929479
Cx8_im_a3 x8_im_a3 0 1.0
Gp8_im_re_a3 0 x8_im_a3 x8_re_a3 0 -6605241702.929479
Rp8_im_im_a3 0 x8_im_a3 1.342268950071152e-09
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 75.0
Gd4_1 0 s4 p1 0 0.002776067497288448
Fd4_1 0 s4 V1 0.20820506229663366
Gr1_4_1 0 s4 x1_a1 0 -3780481301.342885
Gr2_re_4_1 0 s4 x2_re_a1 0 492239469.6039842
Gr2_im_4_1 0 s4 x2_im_a1 0 -224090521.98157635
Gr3_re_4_1 0 s4 x3_re_a1 0 37328582.44047536
Gr3_im_4_1 0 s4 x3_im_a1 0 -232227603.70699868
Gr4_re_4_1 0 s4 x4_re_a1 0 21477927.687606107
Gr4_im_4_1 0 s4 x4_im_a1 0 -250380747.26139557
Gr5_re_4_1 0 s4 x5_re_a1 0 106565091.05165026
Gr5_im_4_1 0 s4 x5_im_a1 0 -157660433.90286168
Gr6_re_4_1 0 s4 x6_re_a1 0 -61548294.554236256
Gr6_im_4_1 0 s4 x6_im_a1 0 -347810819.49300253
Gr7_re_4_1 0 s4 x7_re_a1 0 -73058346.91615984
Gr7_im_4_1 0 s4 x7_im_a1 0 -54838005.176924415
Gr8_re_4_1 0 s4 x8_re_a1 0 -39341590.465170346
Gr8_im_4_1 0 s4 x8_im_a1 0 -73023825.32804844
Gd4_2 0 s4 p2 0 2.7626240332976036e-06
Fd4_2 0 s4 V2 0.00020719680249732032
Gr1_4_2 0 s4 x1_a2 0 -23317293.315459188
Gr2_re_4_2 0 s4 x2_re_a2 0 66527.27342484912
Gr2_im_4_2 0 s4 x2_im_a2 0 1023947.8987552535
Gr3_re_4_2 0 s4 x3_re_a2 0 296511.82998682663
Gr3_im_4_2 0 s4 x3_im_a2 0 86850.98985282924
Gr4_re_4_2 0 s4 x4_re_a2 0 -161291.93298470514
Gr4_im_4_2 0 s4 x4_im_a2 0 467241.9804069229
Gr5_re_4_2 0 s4 x5_re_a2 0 -2421908.8850862673
Gr5_im_4_2 0 s4 x5_im_a2 0 5485957.603487718
Gr6_re_4_2 0 s4 x6_re_a2 0 9318609.678032897
Gr6_im_4_2 0 s4 x6_im_a2 0 586959.3780426237
Gr7_re_4_2 0 s4 x7_re_a2 0 -1257061.1064396498
Gr7_im_4_2 0 s4 x7_im_a2 0 -3797187.4070246285
Gr8_re_4_2 0 s4 x8_re_a2 0 2559465.995206324
Gr8_im_4_2 0 s4 x8_im_a2 0 -2045471.8602222293
Gd4_3 0 s4 p3 0 -7.785925503171057e-05
Fd4_3 0 s4 V3 -0.005839444127378294
Gr1_4_3 0 s4 x1_a3 0 61513707.84429425
Gr2_re_4_3 0 s4 x2_re_a3 0 -1309949.975155141
Gr2_im_4_3 0 s4 x2_im_a3 0 2549313.6698903185
Gr3_re_4_3 0 s4 x3_re_a3 0 -672998.9138284959
Gr3_im_4_3 0 s4 x3_im_a3 0 1501388.20224861
Gr4_re_4_3 0 s4 x4_re_a3 0 -661343.1291902399
Gr4_im_4_3 0 s4 x4_im_a3 0 4775909.713138787
Gr5_re_4_3 0 s4 x5_re_a3 0 1261299.1606634143
Gr5_im_4_3 0 s4 x5_im_a3 0 184319.29984038838
Gr6_re_4_3 0 s4 x6_re_a3 0 -4072782.925420769
Gr6_im_4_3 0 s4 x6_im_a3 0 323467.1405972208
Gr7_re_4_3 0 s4 x7_re_a3 0 -139605.8489236465
Gr7_im_4_3 0 s4 x7_im_a3 0 2953094.327909412
Gr8_re_4_3 0 s4 x8_re_a3 0 -521310.7945893945
Gr8_im_4_3 0 s4 x8_im_a3 0 1773820.4421385631
Gd4_4 0 s4 p4 0 -0.01152457498170484
Fd4_4 0 s4 V4 -0.8643431236278633
Gr1_4_4 0 s4 x1_a4 0 5022331152.642978
Gr2_re_4_4 0 s4 x2_re_a4 0 -44081434.38525741
Gr2_im_4_4 0 s4 x2_im_a4 0 1002798189.1802344
Gr3_re_4_4 0 s4 x3_re_a4 0 78222090.93760999
Gr3_im_4_4 0 s4 x3_im_a4 0 180834923.75586352
Gr4_re_4_4 0 s4 x4_re_a4 0 276225694.65681815
Gr4_im_4_4 0 s4 x4_im_a4 0 597939552.1718063
Gr5_re_4_4 0 s4 x5_re_a4 0 91972543.07791916
Gr5_im_4_4 0 s4 x5_im_a4 0 5422261.595566479
Gr6_re_4_4 0 s4 x6_re_a4 0 477372327.96061444
Gr6_im_4_4 0 s4 x6_im_a4 0 111383806.61678016
Gr7_re_4_4 0 s4 x7_re_a4 0 46698251.14585801
Gr7_im_4_4 0 s4 x7_im_a4 0 203728836.44610798
Gr8_re_4_4 0 s4 x8_re_a4 0 62240085.12910783
Gr8_im_4_4 0 s4 x8_im_a4 0 105878406.90807986
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.05773502691896257
Fx1_a4 0 x1_a4 V4 4.330127018922194
Rp1_a4 0 x1_a4 8.37384195165241e-11
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.11547005383792514
Fx2_re_a4 0 x2_re_a4 V4 8.660254037844387
Rp2_re_re_a4 0 x2_re_a4 3.59352491824938e-10
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 20279306959.847218
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -20279306959.847218
Rp2_im_im_a4 0 x2_im_a4 3.59352491824938e-10
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.11547005383792514
Fx3_re_a4 0 x3_re_a4 V4 8.660254037844387
Rp3_re_re_a4 0 x3_re_a4 1.1077796172752262e-09
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 17095780561.336437
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -17095780561.336437
Rp3_im_im_a4 0 x3_im_a4 1.1077796172752262e-09
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.11547005383792514
Fx4_re_a4 0 x4_re_a4 V4 8.660254037844387
Rp4_re_re_a4 0 x4_re_a4 7.5818957062925e-10
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 13991562109.92027
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -13991562109.92027
Rp4_im_im_a4 0 x4_im_a4 7.5818957062925e-10
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.11547005383792514
Fx5_re_a4 0 x5_re_a4 V4 8.660254037844387
Rp5_re_re_a4 0 x5_re_a4 8.808449939167192e-10
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 10656348811.100796
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -10656348811.100796
Rp5_im_im_a4 0 x5_im_a4 8.808449939167192e-10
Cx6_re_a4 x6_re_a4 0 1.0
Gx6_re_a4 0 x6_re_a4 p4 0 0.11547005383792514
Fx6_re_a4 0 x6_re_a4 V4 8.660254037844387
Rp6_re_re_a4 0 x6_re_a4 6.16639163135776e-10
Gp6_re_im_a4 0 x6_re_a4 x6_im_a4 0 8655331631.79729
Cx6_im_a4 x6_im_a4 0 1.0
Gp6_im_re_a4 0 x6_im_a4 x6_re_a4 0 -8655331631.79729
Rp6_im_im_a4 0 x6_im_a4 6.16639163135776e-10
Cx7_re_a4 x7_re_a4 0 1.0
Gx7_re_a4 0 x7_re_a4 p4 0 0.11547005383792514
Fx7_re_a4 0 x7_re_a4 V4 8.660254037844387
Rp7_re_re_a4 0 x7_re_a4 1.0025909908110874e-09
Gp7_re_im_a4 0 x7_re_a4 x7_im_a4 0 5102086925.948308
Cx7_im_a4 x7_im_a4 0 1.0
Gp7_im_re_a4 0 x7_im_a4 x7_re_a4 0 -5102086925.948308
Rp7_im_im_a4 0 x7_im_a4 1.0025909908110874e-09
Cx8_re_a4 x8_re_a4 0 1.0
Gx8_re_a4 0 x8_re_a4 p4 0 0.11547005383792514
Fx8_re_a4 0 x8_re_a4 V4 8.660254037844387
Rp8_re_re_a4 0 x8_re_a4 1.342268950071152e-09
Gp8_re_im_a4 0 x8_re_a4 x8_im_a4 0 6605241702.929479
Cx8_im_a4 x8_im_a4 0 1.0
Gp8_im_re_a4 0 x8_im_a4 x8_re_a4 0 -6605241702.929479
Rp8_im_im_a4 0 x8_im_a4 1.342268950071152e-09
.ENDS s_equivalent
